US05811389
A solution of 3.42 g (10.0 mmol) of 10-hexyl-3,7-dimethoxy-phenothiazine in 50 ml of diethyl ether/tetrahydrofuran (4:1) was reacted with 8.12 ml of n-butyllithium solution (1.6M in hexane) and 3.35 g (29.6 mmol) of N-formylpiperidine analogously to that described in Example 4.1.1.c. The product was chromatographed on silica gel with ethyl acetate/hexane (1:4), whereupon 2.39 g (64.4%) of 10-hexyl-3,7-dimethoxy-phenothiazine-4-carbaldehyde were obtained as a red oil.

reactant | 10-hexyl-3,7-dimethoxy-phenothiazine | 10.0 mmol, 3.42 g | C(CCCCC)N1C2=CC=C(C=C2SC=2C=C(C=CC12)OC)OC | C20H25NO2S
reactant | n-butyllithium | 1.6M, 8.12 ml | C(CCC)[Li]
reactant | N-formylpiperidine | 29.6 mmol, 3.35 g | C(=O)N1CCCCC1 | C6H11NO
solvent | diethyl ether tetrahydrofuran | 50 ml | C(C)OCC.O1CCCC1
product | 10-hexyl-3,7-dimethoxy-phenothiazine-4-carbaldehyde | 2.39 g, 64.4% | C(CCCCC)N1C2=CC=C(C=C2SC=2C(=C(C=CC12)OC)C=O)OC | C21H25NO3S
